US08487108B2
Step 1. (R)-tert-butyl 3-acetylpiperidine-1-carboxylate
To a solution of (R)-tert-butyl 3-(methoxy(methyl)carbamoyl)piperidine-1-carboxylate (3.320 g, 12.2 mmol) in THF (30 mL) was added 15 mL of 3.0 M MeMgCl in THF at −15° C. under N2. After 0.5 h, the mixture was allowed to warm to rt for 4 h. The reaction mixture was then quenched with 40 mL of 1 NHCl and extracted with ethyl acetate (3×), dried over Na2SO4. After the solvent was evaporated under reduced pressure, the crude (R)-tert-butyl 3-acetylpiperidine-1-carboxylate was directly used in the next step without further purification. MS ESI +ve m/z 250 (M+Na).

reactant | (R)-tert-butyl 3-(methoxy(methyl)carbamoyl)piperidine-1-carboxylate | 12.2 mmol, 3.320 g | CON(C(=O)[C@H]1CN(CCC1)C(=O)OC(C)(C)C)C | C13H24N2O4
reactant | MeMgCl | 3.0 M, 15 mL | C[Mg]Cl
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (R)-tert-butyl 3-acetylpiperidine-1-carboxylate | C(C)(=O)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C12H21NO3
